US06433214B1
A solution of methyl salicylate (200 g, 1310 mmoles) and methanesulfonyl chloride (210 g, 1830 mmoles) in toluene (600 ml), cooled at 5÷10° C. and under inert atmosphere (nitrogen), is slowly added (about 1 hour) with triethylamine (192 g, 1900 mmoles). The mixture is stirred for 20 hours, then poured into water (1500 ml) and the phases are separated. The aqueous phase is extracted twice with 250 ml of toluene. The combined organic phases are washed twice with 250 ml of water, dried over sodium sulfate, then evaporated under vacuum to a residue which is recrystallized from isopropanol (590 ml) to yield methyl 2-(methanesulfonyloxy)benzoate (280 g, 99.8% purity, 89% yield).

reactant | methyl salicylate | 1310 mmoles, 200 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | methanesulfonyl chloride | 1830 mmoles, 210 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1900 mmoles, 192 g | C(C)N(CC)CC | C6H15N
reactant | water | 1500 ml | O | H2O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(methanesulfonyloxy)benzoate | 280 g, 89% yield | CS(=O)(=O)OC1=C(C(=O)OC)C=CC=C1 | C9H10O5S
